US04299838
A mixture of 12.3 g (0.054 M) of N-acetyl tryptophan (DL), 4.5 g (0.052 M) morpholine, 75 g absolute ethyl alcohol and 1 g carbon black was refluxed under agitation for 2 hours. It was filtered while hot and concentrated in vacuo to half the volume, after which 200 g of dry acetone was poured in, with agitation. The crystals which were white, were centrifuged and dried, yielding 16 g of morpholine N-acetyl tryptophanate (DL; m.p. 200° C.). The product can be determined with perchloric acid in an acetic medium. The purity was found to be between 99 and 100%.

reactant | N-acetyl tryptophan | 0.054 M, 12.3 g | C(C)(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C13H14N2O3
reactant | morpholine | 0.052 M, 4.5 g | N1CCOCC1 | C4H9NO
reactant | carbon black | 1 g | C | CH4
solvent | ethyl alcohol | 75 g | C(C)O | C2H6O
product | morpholine N-acetyl tryptophanate | 16 g | C(C)(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O.N1CCOCC1 | InChI=1S/C13H14N2O3.C4H9NO/c1-8(16)15-12(13(17)18)6-9-7-14-11-5-3-2-4-10(9)11;1-3-6-4-2-5-1/h2-5,7,12,14H,6H2,1H3,(H,15,16)(H,17,18);5H,1-4H2/t12-;/m0./s1
